US09284331B2
Step 2: 9-propionyl-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
124-2. A solution of 9-(1-hydroxypropyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (231 mg, 0.78 mmol) in DCM (40 mL) was treated with Dess-Martin periodinane (365 mg, 0.86 mmol) and the mixture was stirred at RT for 2 h. The reaction mixture was then poured onto a saturated aq. solution of NaHCO3 and extracted with DCM. The combined org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, AcOEt/MeOH 95:5) gave the title compound (225 mg). UPLC-MS: MS 285.2 (M+H+); UPLC rt 0.68 min.

reactant | 9-(1-hydroxypropyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 0.78 mmol, 231 mg | OC(CC)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H18N2O3
reactant | Dess-Martin periodinane | 0.86 mmol, 365 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 9-propionyl-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 225 mg | C(CC)(=O)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C16H16N2O3
